US07402684B2
(R)-2-[4-(4-Thiazol-2-yl-benzyl)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester:
The title compound (90 mg, 99%) was prepared from thiazole (0.07 g, 0.8 mmol) and (R)-2-[4-(4-iodo-benzyl)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.1 g, 0.2 mmol) using the procedure of Example 146, step 1, 1HNMR (400 Hz, CDCl3) δ 7.88 (d, J=8.4 Hz, 2H), 7.84 (d, J=3.2 Hz, 1H), 7.30 (d, J=3.2 Hz, 1H), 7.25 (d, J=8.4 Hz, 2H), 7.10 (d, J=8 Hz, 2H), 6.86 (br d, J=7.2 Hz, 2H), 4.10 (br, 2H), 3.96 (s, 2H), 3.9-3.75 (br, 2H), 3.40 (br, 2H), 2.03-1.84 (br, 4H), 1.46 (s, 9H) MS?

reactant | thiazole | 0.8 mmol, 0.07 g | S1C=NC=C1 | C3H3NS
reactant | (R)-2-[4-(4-iodo-benzyl)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.2 mmol, 0.1 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)CC1=CC=C(C=C1)I | C23H28INO3
product | (R)-2-[4-(4-Thiazol-2-yl-benzyl)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 90 mg, 99% | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)CC1=CC=C(C=C1)C=1SC=CN1 | C26H30N2O3S
